US07049313B2
(b) 1-Fluoro-9-oxo-thioxanthen-4-yl trifluoromethane sulfonate (11)
1-Fluoro-4-hydroxy-thioxanthen-9-one (4.92 g, 20 mmol) was dissolved in dry pyridine (100 ml) and cooled to 0° C. under a nitrogen atmosphere. Triflic anhydride (3.66 ml, 22.3 mmol) was added drop wise to the stirred solution over 5 minutes. The reaction was left overnight and was then poured onto water (300 ml) and the precipitate formed was filtered. The solid was purified through a plug of silica (ethyl acetate:hexane; 1:9) to give the title compound as a white fluffy solid (1.72 g, 22.4%). m/z (LC-MS, ESP): 379 (M++1).

reactant | 1-Fluoro-4-hydroxy-thioxanthen-9-one | 20 mmol, 4.92 g | FC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7FO2S
reactant | Triflic anhydride | 22.3 mmol, 3.66 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-Fluoro-9-oxo-thioxanthen-4-yl trifluoromethane sulfonate | FC(S(=O)(=O)OC1=CC=C(C=2C(C3=CC=CC=C3SC12)=O)F)(F)F | C14H6F4O4S2
